US08912186B2
By a procedure similar to that of example 1.59.2, starting from 1-(4-bromophenyl)-3-(4-chlorophenyl)prop-2-en-1-one and dimethyl malonate, dimethyl 2-(3-(4-bromophenyl)-1-(4-chlorophenyl)-3-oxopropyl)malonate was obtained as colourless solid.

reactant | 1-(4-bromophenyl)-3-(4-chlorophenyl)prop-2-en-1-one | BrC1=CC=C(C=C1)C(C=CC1=CC=C(C=C1)Cl)=O | C15H10BrClO
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
product | dimethyl 2-(3-(4-bromophenyl)-1-(4-chlorophenyl)-3-oxopropyl)malonate | BrC1=CC=C(C=C1)C(CC(C1=CC=C(C=C1)Cl)C(C(=O)OC)C(=O)OC)=O | C20H18BrClO5
